US08557805B2
5-(3-Methyl-4-nitrophenoxy)-2-(methylsulfonyl)pyridine
A mixture of 4-fluoro-2-methyl-1-nitrobenzene (9.4 g), 6-(methylsulfonyl)pyridin-3-ol (10.0 g), potassium carbonate (8.8 g), and N,N-dimethylformamide (100 mL) was stirred at 60° C. for 24 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was added to a mixture of ethyl acetate-water. The precipitated solid was collected by filtration, washed with water and ethyl acetate and dried to give the title compound (8.28 g) as a pale-yellow solid. The filtrate was extracted with ethyl acetate, washed successively with aqueous citric acid solution, water and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained solid was washed with ethyl acetate to give the title compound (4.30 g) as a pale-yellow solid.

reactant | 4-fluoro-2-methyl-1-nitrobenzene | 9.4 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 6-(methylsulfonyl)pyridin-3-ol | 10.0 g | CS(=O)(=O)C1=CC=C(C=N1)O | C6H7NO3S
reactant | potassium carbonate | 8.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 5-(3-Methyl-4-nitrophenoxy)-2-(methylsulfonyl)pyridine | 8.28 g, yield: 67% | CC=1C=C(OC=2C=CC(=NC2)S(=O)(=O)C)C=CC1[N+](=O)[O-] | C13H12N2O5S
